Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac cath

 
History of Present Illness:
___ with PMH of CABG (5 grafts) in ___, PCI x 4, DM, HTN p/w 
chest pain x 5 days. Patient's chest pain began on ___, 
originated in her back, and was associated with substernal chest 
pressure. These episodes were not associated with nausea, 
diaphoresis, palpatations, radiation to arms, or exertion. 
However, they are similar to her previous presentation prior to 
her CABG.  
.  
In the ED, her vitals were 101/52 61 96% RA. An EKG was 
performed which showed no acute changes. She was given ASA, SL 
NTG x 3 and 8 mg IV morphine with improvement in her chest pain. 
A heparin gtt was not started. A chest CTA was also performed to 
rule out PE and dissection and was negative.  
.  
ROS was negative for F/C/abdominal pain.  

 
Past Medical History:
PAST MEDICAL HISTORY:  ___ has got a number of medical 
problems stemming from hypertension and diabetes.  She has had 
diabetes for a long period of time and her most recent 
hemoglobin A1c level was notably elevated at 14%.  She has a 
history of coronary artery disease and had a CABG in ___.  She 
reportedly has an ejection fraction of 50 to 55%.  She has a 
history of hyperlipidemia and hypertension.  With respect to her 
bypass, she has had stents placed as well.  Her CABG was 
complicated by a sternal wound infection.  Her most recent echo 
was obtained on ___.  This reveals ejection fraction of 
greater than or equal to 55% with no evidence of endocarditis.  
She has never had a colonoscopy and she had her last mammogram 
___ years ago. She also has anemia and her most recent 
hematocrit was 30%.  She has an elevated platelet level greater 
than 500.
.
PAST SURGICAL HISTORY:  In ___ and ___, she had her coronary
artery bypass.  She has had three C-sections.
.
OB/GYN HISTORY:  She denies any history of pelvic infections. 
She denies any history of abnormal Pap smears, and her last was
obtained in ___.  She denies any complications of cesarean
section.
 
Social History:
___
Family History:
She reports her mother developed lung cancer, she was a smoker.  
She had a grandmother and an aunt who had breast cancer, 
grandmother was sick in her ___ and her aunt was in her ___.  
There is no other family history of cancer.
 
Physical Exam:
Vitals: Tc 97.2 HR 58 BP 138/76 RR  
General: Alert and oriented x 3, NAD  
HEENT: ATNC, EOMI  
Neck: supple, no significant JVD or carotid bruits  
Pulmonary: CTAB, no wheezes, rales, or rhonchi  
Cardiac: RRR, nl S1 S2, ___ HS murmur, rubs, or gallops  
Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or 
organomegaly  
Extremities: mild edema, 2+ ___ pulses b/l  
Lymphatics: No cervical, supraclavicular, axillary or inguinal 
lymphadenopathy noted  
Skin: no echymoses  

 
Pertinent Results:
___ 10:00PM   PTT-36.8*
___ 05:00PM   CK-MB-NotDone cTropnT-<0.01
___ 05:00PM   CK-MB-NotDone cTropnT-<0.01
___ 05:00PM   ___ PTT-25.7 ___
___ 07:50AM   GLUCOSE-355* UREA N-16 CREAT-0.7 SODIUM-135 
POTASSIUM-5.0 CHLORIDE-100 TOTAL CO2-28 ANION GAP-12
___ 07:50AM   estGFR-Using this
___ 07:50AM   CK(CPK)-76
___ 07:50AM   cTropnT-<0.01
___ 07:50AM   CK-MB-NotDone
___ 07:50AM   %HbA1c-10.9___ 07:50AM   NEUTS-54.1 ___ MONOS-4.3 EOS-2.6 
BASOS-1.0
___ 07:50AM   NEUTS-54.1 ___ MONOS-4.3 EOS-2.6 
BASOS-1.0
___ 07:50AM   PLT COUNT-341

CARDIAC CATH:
COMMENTS:      
1. Coronary angiography in this right dominant system revealed 
two 
vessel coronary artery disease. The LMCA had no significant 
disease. The 
LAD was totally occluded at the mid segment. The OM1 stent was 
known 
occluded. The distal LCxs stent was occluded at its distal edge. 
The 
distal OM beyond the stent filled by R>L collaterals. 
2. Arterial conduit angiography revealed the LIMA to be widely 
patent. 
The SVGs were not engaged as known to be occluded. 
3. Successful PTCA of the distal LCX stent with a 2.0x15 Voyager 
balloon 
and a 2.25x15mm Quantum Maverick balloon. Final angiography 
revealed no 
residual stenosis, no angiographically apparent dissection and 
TIMI III 
flow (see ___ comments). 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Patent LIMA to LAD. 
3. Successful PTCA Of the LCX. 

 
Brief Hospital Course:
___ with history of CAD s/p CABG and PCI, DM, HTN p/w 
CP.  
  
## Chest pain: Patient's chest pain complaints were more 
consistent with MSK pain than cardiac ischemia.  Her cardiac 
enzymes were negative but given her significant cardiac history, 
she was taken to cardiac catheterization.  There, she was found 
to have total occlusion of her left circumflex and PTCA was 
performed, with successful dilation of the artery.  No stent was 
placed.  She was discharged on a BB, statin, ASA, and 
clopidogrel, all of which she was already taking at the time of 
admission.  

## Diabetes mellitus: Patient has insulin dependent diabetes and 
her HbA1C was 10% at time of admission, suggesting poor glucose 
control.  This is her most significant cardiac risk factor that 
is not currently medically managed optimally.  She states that 
she is adherent to her medications and she was advised to 
continue to follow her blood glucose levels closely at home.  
During her admission, her finger stick glucose levels were well 
controlled.
  

 
Medications on Admission:
Medications on admission:  
1. Amlodipine 10 mg  
2. Metoprolol Tartrate 100 mg  
3. Furosemide 40 mg bid  
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every  

8 hours).  
5. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet,  

Sublingual Sublingual PRN (as needed) as needed for chest pain.  

6. Insulin Glargine Subcutaneous  
7. Ibuprofen 800 mg Tablet Sig: One (1) Tablet PO every six (6)  

hours as needed for pain. Disp:*30 Tablet(s)* Refills:*0*  
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
9. Insulin sliding scale (60u glargine QHS)  
10. Aspirin 325 mg  
11. Atorvastatin 80 mg  
12. Clopidogrel 75 mg  
13. Niaspan *NF* 750 mg  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
7. Niacin 250 mg Capsule, Sustained Release Sig: Three (3) 
Capsule, Sustained Release PO qhs ().  
8. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: ___ Tablet, 
Sublinguals Sublingual PRN (as needed).  
9. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

10. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets 
PO Q4H (every 4 hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
12. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) for 4 days.
Disp:*16 Tablet(s)* Refills:*0*
13. Ergocalciferol (Vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO QWK ().  
14. Insulin Glargine  Subcutaneous

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Coronary artery disease
.
Secondary:
Hypertension
Diabetes
Dyslipidemia

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted because of chest pain.  We determined that you 
were not having a heart attack.  However, we found a blockage of 
one of your coronary arteries and relieved this blockage by 
dilating the artery.
.
Please take all of your medications as prescribed.  We did not 
change any of your medications.  We gave you a few days of pain 
pills to help with your chest pain. Please keep all of your 
follow-up appointments.
.
Please call your doctor or return to the hospital if you 
experience fevers, chills, sweats, chest pain, shortness of 
breath or anything else of concern.

 
Followup Instructions:
___